US06943267B1
A solution of dimethyl thiophosphite (3.84 g, 30.5 mmol), crude 7-bromomethylnaphthalene-1-carboxylic acid tert-butyl ester (11.2 g, 34.9 mmol) and triethylbenzylammonium chloride (0.72 g, 3.17 mmol) in dichloromethane (100 mL) was cooled on an ice bath and a solution of sodium hydroxide (12.7 g, 0.317 mol) in water (12.7 mL) was added slowly with vigorous stirring. The ice bath was then removed and the mixture stirred overnight. The next morning, it was washed with water, dried (magnesium sulfate), and the solvent removed under reduced pressure to give crude 7-(dimethoxythiophosphorylmethyl) naphthalene-1-carboxylic acid tert-butyl ester (See FIG. 1) (10.38 g) as orange oil.

reactant | dimethyl thiophosphite | 30.5 mmol, 3.84 g | P(SC)(OC)[O-]
reactant | 7-bromomethylnaphthalene-1-carboxylic acid tert-butyl ester | 34.9 mmol, 11.2 g | C(C)(C)(C)OC(=O)C1=CC=CC2=CC=C(C=C12)CBr | C16H17BrO2
reactant | sodium hydroxide | 0.317 mol, 12.7 g | [OH-].[Na+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 3.17 mmol, 0.72 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 12.7 mL | O | H2O
product | 7-(dimethoxythiophosphorylmethyl) naphthalene-1-carboxylic acid tert-butyl ester | 10.38 g | C(C)(C)(C)OC(=O)C1=CC=CC2=CC=C(C=C12)CP(=S)(OC)OC | C18H23O4PS
